US08138178B2
A solution of (R)-6-allyl-6-(4-fluorophenyl)-3-((S)-1-(4-(2-oxo-1,2-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one (15.5 mg, 0.036 mmol) in dry DMF (1 mL) was cooled to 0° C. Sodium hydride (60% in mineral oil, 3 mg, 2 equiv) was added. After 20 min, iodomethane (4.5 μL, 2 equiv) was added. The mixture was stirred another 20 min before being warmed to it slowly and stirred for 2 h. LC-MS found the reaction completed. The mixture was quenched with satd aq NH4Cl (1 mL) and purified by prep HPLC to afford (R)-6-allyl-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one (13.3 mg, 83% yield). LC-MS Method 1 tR=1.63 min, m/z 447 (M+1).

reactant | (R)-6-allyl-6-(4-fluorophenyl)-3-((S)-1-(4-(2-oxo-1,2-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 0.036 mmol, 15.5 mg | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C=1C(NC=CC1)=O)C1=CC=C(C=C1)F | C26H25FN2O3
reactant | Sodium hydride | 3 mg, 2 equiv | [H-].[Na+]
reactant | iodomethane | 4.5 μL, 2 equiv | IC | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-6-allyl-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 13.3 mg, 83% yield | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C=1C(N(C=CC1)C)=O)C1=CC=C(C=C1)F | C27H27FN2O3
